US07754735B2
5-chloro-3-(7-chloro-4-quinolinyl)-2-methyl-1H-indole-1-acetic acid
5-Chloro-2-methylindole (0.16 g) and 4,8-dichloroquinoline (0.2 g) were suspended in NMP (0.5 ml) and heated in a microwave at 100W, 140° C. for 60 minutes. When reaction was complete THF (5 ml) was added followed by sodium hydride 60% dispersion in oil (0.12 g). After 30 mins a solution of methyl bromoacetate (0.2 ml) in THF (1 ml) was added and the mixture stirred at room temperature for 24 hours. Ethyl acetate and saturated brine solution were added, the aqueous phase was separated and extracted with ethyl acetate. The combined organic solution was evaporated to leave a residue which was purified by silica gel chromatography using dichloromethane/ethyl acetate (9:1) to provide the sub-title product as an oil. (120 mg).

reactant | 5-Chloro-2-methylindole | 0.16 g | ClC=1C=C2C=C(NC2=CC1)C | C9H8ClN
reactant | 4,8-dichloroquinoline | 0.2 g | ClC1=CC=NC2=C(C=CC=C12)Cl | C9H5Cl2N
reactant | sodium hydride | [H-].[Na+]
reactant | methyl bromoacetate | 0.2 ml | BrCC(=O)OC | C3H5BrO2
reactant | NMP | 0.5 ml | CN1CCCC1=O | C5H9NO
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloro-3-(7-chloro-4-quinolinyl)-2-methyl-1H-indole-1-acetic acid | ClC=1C=C2C(=C(N(C2=CC1)CC(=O)O)C)C1=CC=NC2=CC(=CC=C12)Cl | C20H14Cl2N2O2
